US03994940
In the manner given in Example 1C, 2',5-dichloro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone in ethanol is refluxed with hydrazine to give 1-[2-(dimethylamino)ethyl]-8 -chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 150°-153° C.

reactant | 2',5-dichloro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CCN(C)C)=O | C28H23Cl2N5O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(dimethylamino)ethyl]-8 -chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C20H19Cl2N5
